US05532236
c. 5-Benzyloxy-8-(1H-imidazol-1-yl)-1-thioxo-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one
A solution of thiophosgene (1.1 ml, 14 mmol) in 10 ml of dry tetrahydrofuran was added dropwise to a stirred solution of 2.91 g (7 mmol) of 1-benzyloxy-3-hydrazino-6-(1H-imidazol-1-yl)-7-trifluoromethylquinoxalin-2(1H)-one in a mixture of 100 ml of dry tetrahydrofuran and 25 ml of dry N,N-dimethylformamide at 0° C. The mixture was stirred for 2h at 0° C. and evaporated to dryness. The solid residue was suspended in 100 ml of water, neutralized with solid sodium hydrogen carbonate and filtered. Recrystallization from ethanol afforded 1.64 g (51%) of the title compound.

reactant | thiophosgene | 14 mmol, 1.1 ml | C(=S)(Cl)Cl | CCl2S
reactant | 1-benzyloxy-3-hydrazino-6-(1H-imidazol-1-yl)-7-trifluoromethylquinoxalin-2(1H)-one | 7 mmol, 2.91 g | C(C1=CC=CC=C1)ON1C(C(=NC2=CC(=C(C=C12)C(F)(F)F)N1C=NC=C1)NN)=O | C19H15F3N6O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 5-Benzyloxy-8-(1H-imidazol-1-yl)-1-thioxo-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 1.64 g, 51% | C(C1=CC=CC=C1)ON1C(C=2N(C3=CC(=C(C=C13)C(F)(F)F)N1C=NC=C1)C(NN2)=S)=O | C20H13F3N6O2S
